US07435837B2
Treatment of (±)-(7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.5 g, 3.32 mmol) with 2-naphthaleneboronic acid (0.86 g, 4.97 mmol), tetrakis(triphenylphosphine)palladium(0) (0.38 g, 0.33 mmol), and potassium phosphate (1.41 g, 6.64 mmol) generally according to the procedure described for Intermediate 50 provided 0.513 g (36%) of (±)-[7-(2-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Rf=0.42 (silica, ethyl acetate:hexanes 1:3); Anal. calcd. for C26H22O4S: C, 72.54; H, 5.15. Found: C, 72.04; H, 5.04.

reactant | (±)-(7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.32 mmol, 1.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2OS(=O)(=O)C(F)(F)F | C17H15F3O7S2
reactant | 2-naphthaleneboronic acid | 4.97 mmol, 0.86 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium phosphate | 6.64 mmol, 1.41 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.33 mmol, 0.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-[7-(2-naphthyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.513 g, 36% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC1=CC=CC=C1C=C2 | C26H22O4S
